* Z:\home\sbecht\ultra-efficient-adc\ResetFlipFlop_Low_LDS.asc

.subckt resetflipflop_low_lds D CLK CLKb Q Qb RESETb pos neg
M1 N005 CLK N007 neg nfet l=0.9u w=3u
M4 N003 D pos pos pfet l=0.9u w=6u
M28 N001 RESETb pos pos pfet l=0.9u w=7.8u
M29 N001 RESETb pos pos pfet l=0.9u w=12.6u
M3 N005 CLKb N003 pos pfet l=0.9u w=6u
M6 N002 N005 pos pos pfet l=0.9u w=6u
M9 N001 CLK N004 pos pfet l=0.9u w=6u
M10 N004 N002 pos pos pfet l=0.9u w=6u
M11 N006 N001 pos pos pfet l=0.9u w=6u
M12 Q N001 pos pos pfet l=0.9u w=6u
M16 Qb N006 pos pos pfet l=0.9u w=6u
M17 N001 CLKb N009 pos pfet l=0.9u w=6u
M18 N009 N006 pos pos pfet l=0.9u w=6u
M22 N005 CLK N010 pos pfet l=0.9u w=6u
M24 N010 N002 pos pos pfet l=0.9u w=6u
M2 N007 D neg neg nfet l=0.9u w=3u
M5 N002 N005 neg neg nfet l=0.9u w=3u
M7 N001 CLKb N008 neg nfet l=0.9u w=3u
M8 N008 N002 neg neg nfet l=0.9u w=3u
M13 N006 N001 neg neg nfet l=0.9u w=3u
M14 Qb N006 neg neg nfet l=0.9u w=3u
M15 N001 CLK N011 neg nfet l=0.9u w=3u
M19 N011 N006 neg neg nfet l=0.9u w=3u
M20 N012 N002 neg neg nfet l=0.9u w=3u
M21 N005 CLKb N012 neg nfet l=0.9u w=3u
M25 N001 RESETb pos pos pfet l=0.9u w=7.8u
M26 N001 RESETb pos pos pfet l=0.9u w=7.8u
M27 N005 RESETb pos pos pfet l=0.9u w=7.8u
M30 N005 RESETb pos pos pfet l=0.9u w=12.6u
M31 N005 RESETb pos pos pfet l=0.9u w=7.8u
M32 N005 RESETb pos pos pfet l=0.9u w=7.8u
M23 Q N001 neg neg nfet l=0.9u w=3u
.ends resetflipflop_low_lds

