* Z:\home\sbecht\ultra-efficient-adc\SPDTlvs.asc
M1 Vdd N002 N003 Vdd pfet l=.9u w=6u
M2 0 N002 N003 0 nfet l=.9u w=3u
M3 Iin1 N002 N001 0 nfet l=.9u w=3u
M4 Iin2 N002 N001 Vdd pfet l=.9u w=6u
M5 N001 N003 Iin2 0 nfet l=.9u w=3u
M6 N001 N003 Iin1 Vdd pfet l=.9u w=6u
.param pmosL=.9u
.param pmosW=6u
.param nmosL=.9u
.param nmosW=3u
.backanno
.end
