* C:\Users\awhitcombe\Documents\GitHub\ultra-efficient-adc\analog_switch_current_steer.asc
M1 N011 N001 Iin Vdd PMOS l={6*A} w={2*A}
M2 N012 N002 Iin Vdd PMOS l={6*A} w={2*A}
M4 N011 N003 Iref Vdd PMOS l={6*A} w={2*A}
M5 N012 N004 Iref Vdd PMOS l={6*A} w={2*A}
M6 -V DGD2 Iref Vdd PMOS l={6*A} w={2*A}
C1 N011 -V 10p
C2 N012 -V 10p
M9 In2? In1? Vdd Vdd PMOS l={6*A} w={2*A}
M10 In2? In1? -V -V NMOS l={3*A} w={2*A}
M24 N011 CLC1 -V -V NMOS l={3*A} w={12*A}
M28 -V CLC2 N012 -V NMOS l={3*A} w={12*A}
M3 -V DGD1 Iin Vdd PMOS l={6*A} w={2*A}
M11 N001 In1? N005 -V NMOS l={3*A} w={2*A}
M12 N005 C1? -V -V NMOS l={3*A} w={2*A}
M13 N001 In1? Vdd Vdd PMOS l={6*A} w={2*A}
M14 Vdd C1? N001 Vdd PMOS l={6*A} w={2*A}
M7 N002 In1? N009 -V NMOS l={3*A} w={2*A}
M8 N009 C2? -V -V NMOS l={3*A} w={2*A}
M15 N002 In1? Vdd Vdd PMOS l={6*A} w={2*A}
M17 Vdd C2? N002 Vdd PMOS l={6*A} w={2*A}
M16 N003 In2? N007 -V NMOS l={3*A} w={2*A}
M18 N007 C1? -V -V NMOS l={3*A} w={2*A}
M19 N003 In2? Vdd Vdd PMOS l={6*A} w={2*A}
M20 Vdd C1? N003 Vdd PMOS l={6*A} w={2*A}
M21 N004 In2? N010 -V NMOS l={3*A} w={2*A}
M22 N010 C2? -V -V NMOS l={3*A} w={2*A}
M23 N004 In2? Vdd Vdd PMOS l={6*A} w={2*A}
M25 Vdd C2? N004 Vdd PMOS l={6*A} w={2*A}
M26 DGD1 N001 N006 -V NMOS l={3*A} w={2*A}
M27 N006 N002 -V -V NMOS l={3*A} w={2*A}
M29 DGD1 N001 Vdd Vdd PMOS l={6*A} w={2*A}
M30 Vdd N002 DGD1 Vdd PMOS l={6*A} w={2*A}
M31 DGD2 N003 N008 -V NMOS l={3*A} w={2*A}
M32 N008 N004 -V -V NMOS l={3*A} w={2*A}
M33 DGD2 N003 Vdd Vdd PMOS l={6*A} w={2*A}
M34 Vdd N004 DGD2 Vdd PMOS l={6*A} w={2*A}
V1 Vdd 0 3V
V2 In1? 0 PWL(0 3 5.5u 3 5.52u 0 40u 0)
V3 C2? 0 PWL(0 0 6u 0 6.02u 3 14u 3 14.02u 0 40u 0)
V4 C1? 0 PWL(0 3 5u 3 5.02u 0 40u 0)
V5 CLC1 0 PWL(0 3 0.5u 3 0.52u 0 40u 0)
V6 CLC2 0 PWL(0 3 0.5u 3 0.52u 0 9.78u 0 9.8u 3 10.2u 3 10.22u 0 40u 0)
Iin1 Vdd Iin 1µ
Iref1 Vdd Iref 500n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 40u 0 10n
* DC22
* DC21
* DC12
* DC11
.include engr3426.sub
.param A=0.2u
.backanno
.end
