* C:\Users\awhitcombe\Documents\GitHub\ultra-efficient-adc\analog_switch_current_steer_test.asc
Iin Vdd N007 1µ
Iref Vdd N008 500n
M1 N009 DC11 N007 Vdd PMOS l={6*A} w={2*A}
M2 N010 DC21 N007 Vdd PMOS l={6*A} w={2*A}
M4 N009 DC12 N008 Vdd PMOS l={6*A} w={2*A}
M5 N010 DC22 N008 Vdd PMOS l={6*A} w={2*A}
M6 0 DGD2 N008 Vdd PMOS l={6*A} w={2*A}
C1 N009 0 10p
C2 N010 0 10p
M9 In2? In1? Vdd Vdd PMOS l={6*A} w={2*A}
M10 In2? In1? 0 0 NMOS l={3*A} w={2*A}
V1 Vdd 0 3V
V2 In1? 0 PWL(0 3 5.5u 3 5.52u 0 40u 0)
V3 C2? 0 PWL(0 0 6u 0 6.02u 3 14u 3 14.02u 0 40u 0)
V4 C1? 0 PWL(0 3 5u 3 5.02u 0 40u 0)
M24 N009 CLC1 0 0 NMOS l={3*A} w={12*A}
M28 0 CLC2 N010 0 NMOS l={3*A} w={12*A}
V5 CLC1 0 PWL(0 3 0.5u 3 0.52u 0 40u 0)
V6 CLC2 0 PWL(0 3 0.5u 3 0.52u 0 9.78u 0 9.8u 3 10.2u 3 10.22u 0 40u 0)
M3 0 DGD1 N007 Vdd PMOS l={6*A} w={2*A}
M11 DC11 In1? N003 0 NMOS l={3*A} w={2*A}
M12 N003 C1? 0 0 NMOS l={3*A} w={2*A}
M13 DC11 In1? Vdd Vdd PMOS l={6*A} w={2*A}
M14 Vdd C1? DC11 Vdd PMOS l={6*A} w={2*A}
M7 DC21 In1? N004 0 NMOS l={3*A} w={2*A}
M8 N004 C2? 0 0 NMOS l={3*A} w={2*A}
M15 DC21 In1? Vdd Vdd PMOS l={6*A} w={2*A}
M17 Vdd C2? DC21 Vdd PMOS l={6*A} w={2*A}
M16 DC12 In2? N005 0 NMOS l={3*A} w={2*A}
M18 N005 C1? 0 0 NMOS l={3*A} w={2*A}
M19 DC12 In2? Vdd Vdd PMOS l={6*A} w={2*A}
M20 Vdd C1? DC12 Vdd PMOS l={6*A} w={2*A}
M21 DC22 In2? N006 0 NMOS l={3*A} w={2*A}
M22 N006 C2? 0 0 NMOS l={3*A} w={2*A}
M23 DC22 In2? Vdd Vdd PMOS l={6*A} w={2*A}
M25 Vdd C2? DC22 Vdd PMOS l={6*A} w={2*A}
M26 DGD1 DC11 N001 0 NMOS l={3*A} w={2*A}
M27 N001 DC21 0 0 NMOS l={3*A} w={2*A}
M29 DGD1 DC11 Vdd Vdd PMOS l={6*A} w={2*A}
M30 Vdd DC21 DGD1 Vdd PMOS l={6*A} w={2*A}
M31 DGD2 DC12 N002 0 NMOS l={3*A} w={2*A}
M32 N002 DC22 0 0 NMOS l={3*A} w={2*A}
M33 DGD2 DC12 Vdd Vdd PMOS l={6*A} w={2*A}
M34 Vdd DC22 DGD2 Vdd PMOS l={6*A} w={2*A}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.include engr3426.sub
.param A=0.2u
.tran 0 40u 0 10n
.backanno
.end
