* Z:\home\sbecht\ultra-efficient-adc\doubleComparatorPreampLVS.asc
M1 V- 0 0 0 nfet l=.9u w=1.5u
M2 0 V- V- 0 nfet l=.9u w=1.5u
M3 V+ V- 0 0 nfet l=.9u w=1.5u
M4 Vdd Vdd V- Vdd pfet l=.9u w=1.5u
M5 V- Input N002 Vdd pfet l=.9u w=1.5u
M6 N002 Thresh V+ Vdd pfet l=.9u w=1.5u
M7 Vdd Vdd Vdd Vdd pfet l=.9u w=1.8u
M8 N001 Cascode N002 Vdd pfet l=.9u w=1.8u
M9 Vdd Bias N001 Vdd pfet l=3.9u w=8.1u
M10 V- 0 0 0 nfet l=.9u w=1.5u
M11 0 V- V- 0 nfet l=.9u w=1.5u
M12 V+ V- 0 0 nfet l=.9u w=1.5u
M13 Vdd Vdd V- Vdd pfet l=.9u w=1.5u
M14 V- Input N002 Vdd pfet l=.9u w=1.5u
M15 N002 Thresh V+ Vdd pfet l=.9u w=1.5u
M16 Vdd Vdd Vdd Vdd pfet l=.9u w=1.8u
M17 N001 Cascode N002 Vdd pfet l=.9u w=1.8u
M18 Vdd Bias N001 Vdd pfet l=3.9u w=8.1u
.backanno
.end
