* Z:\home\sbecht\ultra-efficient-adc\nand3LVS.asc
M1 Vdd A Out Vdd pfet l=.9u w=6u
M2 Out B Vdd Vdd pfet l=.9u w=6u
M3 Vdd C Out Vdd pfet l=.9u w=6u
M4 N001 A 0 0 nfet l=.9u w=3u
M5 N002 B N001 0 nfet l=.9u w=3u
M6 Out C N002 0 nfet l=.9u w=3u
.backanno
.end
