* Z:\home\sbecht\ultra-efficient-adc\nandLVS.asc
M1 Vdd A Out Vdd pfet l=.9u w=6u
M2 Out B Vdd Vdd pfet l=.9u w=6u
M3 N001 A 0 0 nfet l=.9u w=3u
M4 Out B N001 0 nfet l=.9u w=3u
.backanno
.end
