* Z:\home\sbecht\ultra-efficient-adc\norLVS.asc
M1 Out B 0 0 nfet l=.9u w=3u
M2 0 A Out 0 nfet l=.9u w=3u
M3 Vdd B N001 Vdd pfet l=.9u w=6u
M4 N001 A Out Vdd pfet l=.9u w=6u
.backanno
.end
